US04352805
To a mixture of 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethanol and triethylamine is added p-nitrobenzenesulfonyl chloride. The reaction mixture is stirred at room temperature for 30 minutes. The reaction mixture is then extracted with aqueous sodium bicarbonate and brine. The organic layer is filtered through sodium sulfate and taken to dryness. The residue is chromatographed on silica gel to give 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethyl 4-nitrobenzenesulfonate.

reactant | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethanol | COC=1C(=CC2=C(CCCSC2COCCO)C1)OC | C15H22O4S
reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethyl 4-nitrobenzenesulfonate | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OCCOCC1SCCCC2=C1C=C(C(=C2)OC)OC | C21H25NO8S2
